US09422281B2
A mixture of isopropyl (S)-4-acetyl-7-bromo-3-methyl-6-nitro-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.131 g, 0.327 mmol), 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.092 g, 0.392 mmol), cesium carbonate (0.319 g, 0.980 mmol), XPhos (0.016 g, 0.033 mmol) and tris(dibenzylideneacetone)dipalladium (0.015 g, 0.016 mmol) in 1,4-dioxane (3 mL) and water (0.6 mL) was heated for 16 h at 90° C. The reaction was cooled to rt and concentrated. The residue was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate solution. The organic phase was concentrated and the residue was purified by mass triggered preparatory HPLC. The product-containing fractions were combined and concentrated in a Genevac to afford isopropyl (S)-4-acetyl-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-6-nitro-3,4-dihydroquinoxaline-1(2H)-carboxylate. MS (ESI, pos. ion) m/z 428 [M+H]+.

reactant | isopropyl (S)-4-acetyl-7-bromo-3-methyl-6-nitro-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.327 mmol, 0.131 g | C(C)(=O)N1[C@H](CN(C2=CC(=C(C=C12)[N+](=O)[O-])Br)C(=O)OC(C)C)C | C15H18BrN3O5
reactant | 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.392 mmol, 0.092 g | C1(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
reactant | cesium carbonate | 0.980 mmol, 0.319 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | XPhos | 0.033 mmol, 0.016 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.6 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.016 mmol, 0.015 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | isopropyl (S)-4-acetyl-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-6-nitro-3,4-dihydroquinoxaline-1(2H)-carboxylate | C(C)(=O)N1[C@H](CN(C2=CC(=C(C=C12)[N+](=O)[O-])C=1C=NN(C1)C1CC1)C(=O)OC(C)C)C | C21H25N5O5
